US04578462
A mixture of 56.4 g (0.30 mol) of 4-acetoxy-2-methyl-2-butenal dimethyl acetal, 150 ml of diethylamine, 675 mg (3 mmol) of palladium (II) acetate and 3.9 g (15 mmol) of triphenylphosphine was boiled under reflux for 15 hours under argon. After concentrating the mixture, the residue was suspended in 170 ml of ether/pentane (1:1), the solution was treated with active carbon, filtered over Hyflo and concentrated. The residual oil was firstly distilled at 40°-55°/0.3 mmHg over a 5 cm Vigreux column, there being obtained 57.1 g of N,N-diethyl-4,4-dimethoxy-3-methyl-2-butenylamine as a 90:10 (E/Z) mixture. This mixture was then fractionated over a 30 cm packed column. There were firstly obtained a total of 34.8 g (58%) of mixed fractions [(E/Z)=86:14] and then 14.5 g (24%) of pure (E)-N,N-diethyl-4,4-dimethoxy-3-methyl-2-butenylamine of boiling point 30°-32°/0.06 mmHg.

reactant | 4-acetoxy-2-methyl-2-butenal dimethyl acetal | 0.30 mol, 56.4 g | COC(C(=CCOC(C)=O)C)OC | C9H16O4
reactant | triphenylphosphine | 15 mmol, 3.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylamine | 150 ml | C(C)NCC | C4H11N
catalyst | palladium (II) acetate | 3 mmol, 675 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N,N-diethyl-4,4-dimethoxy-3-methyl-2-butenylamine | 57.1 g | C(C)N(CC)CC=C(C(OC)OC)C | C11H23NO2
